US05140011
0.110 g (0.132 mmol) of benzyl [N-[(3S,5S,6S)-6-[[N-[N-(t-butoxycarbonyl)-3-phenyl-L-alanyl]-L-histidyl]amino]-7-cyclohexyl-5-hydroxy-3-isopropylheptyl]amidino]carbamate and 0.015 mg (0.132 mmol) of pyridine hydrochloride are dissolved in 2.4 ml of methanol and hydrogenated in the presence of 20 mg of palladium on charcoal (5%) for 3 hours at room temperature and atmospheric pressure. After completion of the hydrogen uptake the catalyst is filtered off and the filtrate is evaporated under reduced pressure. In this manner there is obtained 0.074 g of t-butyl [(S)-α-[[(S)-1-[[(1S,2S,4S)-1-(cyclohexylmethyl)-6-guanidino-2-hydroxy-4-isopropylhexyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]phenethyl]carbamate hydrochloride as an amorphous solid, MS: 697 (M+H)+.

reactant | benzyl [N-[(3S,5S,6S)-6-[[N-[N-(t-butoxycarbonyl)-3-phenyl-L-alanyl]-L-histidyl]amino]-7-cyclohexyl-5-hydroxy-3-isopropylheptyl]amidino]carbamate | 0.132 mmol, 0.110 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@H]([C@H](C[C@H](CCNC(=N)NC(OCC1=CC=CC=C1)=O)C(C)C)O)CC1CCCCC1 | C45H66N8O7
reactant | pyridine hydrochloride | 0.132 mmol, 0.015 mg | Cl.N1=CC=CC=C1
solvent | methanol | 2.4 ml | CO | CH4O
catalyst | palladium on charcoal | 20 mg | [Pd] | Pd
product | t-butyl [(S)-α-[[(S)-1-[[(1S,2S,4S)-1-(cyclohexylmethyl)-6-guanidino-2-hydroxy-4-isopropylhexyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]phenethyl]carbamate hydrochloride | 0.074 g | Cl.C1(CCCCC1)C[C@@H]([C@H](C[C@H](CCNC(=N)N)C(C)C)O)NC(=O)[C@H](CC=1N=CNC1)NC(=O)[C@H](CC1=CC=CC=C1)NC(OC(C)(C)C)=O | InChI=1S/C37H60N8O5.ClH/c1-24(2)27(16-17-41-35(38)39)20-32(46)29(18-25-12-8-6-9-13-25)43-34(48)31(21-28-22-40-23-42-28)44-33(47)30(19-26-14-10-7-11-15-26)45-36(49)50-37(3,4)5;/h7,10-11,14-15,22-25,27,29-32,46H,6,8-9,12-13,16-21H2,1-5H3,(H,40,42)(H,43,48)(H,44,47)(H,45,49)(H4,38,39,41);1H/t27-,29-,30-,31-,32-;/m0./s1
